US08497368B2
(E)-3-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene-amino)oxazolidin-2-one
The title compound was prepared from 3-aminooxazolidin-2-one and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 24% yield. 1H-NMR (400 MHz, CDCl3) δ ppm 8.85 (dd, 1H), 8.02 (d, 1H), 7.88 (m, 2H), 7.71 (m, 3H), 7.33 (q, 1H), 4.58 (s, 2H), 4.51 (t, 2H), 4.01 (t, 2H), 2.49 (s, 3H). LCMS (method A): [MH]+=405, tR=4.76 min.

reactant | 3-aminooxazolidin-2-one | NN1C(OCC1)=O | C3H6N2O2
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-3-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene-amino)oxazolidin-2-one | 24% yield | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)\C(\C)=N\N2C(OCC2)=O | C21H17FN6O2
